US08633173B2
2-(4-{3-[8-(4-Chloro-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide was prepared from [8-(4-chloro-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(3-piperidin-4-yl-phenyl)-amine (0.047 g, 0.110 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.017 mL, 0.160 mmol) in a manner analogous to Example 313 to give product (0.012 g, 21%). MP=79-82° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.59 (s, 1H), 8.77 (d, 1H), 7.60 (m, 3H), 7.45 (d, 1H), 7.25 (s, 1H), 7.15 (m, 2H), 7.05 (m, 1H), 6.75 (d, 1H), 3.78 (s, 3H), 3.15 (s, 2H), 3.05 (s, 3H), 2.95 (m, 2H), 2.80 (s, 3H), 2.35 (m, 1H), 2.15 (m, 2H), 1.65 (m, 4H): MS=520 (MH)+.

reactant | [8-(4-chloro-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(3-piperidin-4-yl-phenyl)-amine | 0.110 mmol, 0.047 g | ClC1=CC(=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)C2CCNCC2)OC | C24H24ClN5O
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.160 mmol, 0.017 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(4-{3-[8-(4-Chloro-2-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide | ClC1=CC(=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C(C=CC2)C2CCN(CC2)CC(=O)N(C)C)OC | C28H31ClN6O2
